US07368578B2
To a mixture of 4-(4-chloromethyl-2-ethoxyphenoxy)methyl-5-methyl-2-(2-furyl)-1,3-oxazole (0.56 g), 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde (0.25 g) and N,N-dimethylformamide (20 mL) was added sodium hydride (60% in oil, 0.06 g) at room temperature. After stirring the reaction mixture at room temperature for 30 min, the mixture was stirred at 90° C. for 2 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 3-[(3-ethoxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde as colorless crystals (0.56 g, yield 86%) from a fraction eluted with tetrahydrofuran-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 149-150° C.

reactant | 4-(4-chloromethyl-2-ethoxyphenoxy)methyl-5-methyl-2-(2-furyl)-1,3-oxazole | 0.56 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C=C1)OCC | C18H18ClNO4
reactant | 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.25 g | OC1=NN(C=C1C=O)C1=CC=CC=C1 | C10H8N2O2
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.06 g | [H-].[Na+]
solvent | water | O | H2O
product | 3-[(3-ethoxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.56 g, yield 86% | C(C)OC=1C=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C=1OC=CC1 | C28H25N3O6
